data/oMe_Silver.jsonl
{"reaction_id": "NR-337_1-C(C)(C)C_2-c2ccc(OC)cc2_3-O[Si](C)(C)C(C)(C)C_4-c2cnccc2_5-CC","level": "medium","name": "Rosenmund-von Braun Reaction","reactants_smiles": ["c1(I)c(C(C)(C)C)c(c2ccc(OC)cc2)c(O[Si](C)(C)C(C)(C)C)c(c2cnccc2)c1CC","N#C[Cu]"],"products_smiles": ["c1(C#N)c(C(C)(C)C)c(c2ccc(OC)cc2)c(O[Si](C)(C)C(C)(C)C)c(c2cnccc2)c1CC"],"conditions": "High temperature","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "[Cu](I)(C#N)c1c(C(C)(C)C)c(c2ccc(OC)cc2)c(O[Si](C)(C)C(C)(C)C)c(c2cnccc2)c1CC","step_weight": 0,"rationale": "High temperature promotes oxidative addition of the aryl iodide to Cu(I), facilitated by the weak C–I bond and good leaving group ability of iodide, forming a higher oxidation state Cu(III) intermediate with CN ligand."},{"step": 2,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(C#N)c(C(C)(C)C)c(c2ccc(OC)cc2)c(O[Si](C)(C)C(C)(C)C)c(c2cnccc2)c1CC","step_weight": 0,"rationale": "Reductive elimination from Cu(III) is favored by the strong bond formation between the aryl group and the nucleophilic CN, releasing stable Cu(I) and driving the reaction thermodynamically."}],"description": "In the Rosenmund–von Braun reaction, aryl iodide undergoes oxidative addition to a copper(I) cyanide species at high temperature, forming an aryl–Cu(III)–CN intermediate. Subsequent reductive elimination yields the aryl nitrile, driven by strong C–CN bond formation and thermodynamic stability."}
{"reaction_id": "NG-008_1-CC_2-C1CCCCC1_3-c1cc(Cl)ccc1","name": "Baeyer-Villiger oxidation","level": "easy","reactants_smiles": ["C(CC)(=O)(C1CCCCC1)","C(c1cc(Cl)ccc1)(=O)OO"],"products_smiles": ["C(CC)(=O)OC1CCCCC1"],"conditions": "Acid (H3O+)","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC)(=[OH+])C1CCCCC1","rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the carbonyl carbon via inductive and resonance effects, making it more susceptible to nucleophilic attack by the peracid."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(CC)([OH])(OOC(=O)c1cc(Cl)ccc1)C1CCCCC1","rationale": "The peracid oxygen acts as a nucleophile, attacking the activated carbonyl carbon; acid catalysis stabilizes the tetrahedral intermediate through protonation of the carbonyl."},{"step": 3,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C(CC)(=[OH+])OC1CCCCC1","rationale": "A 1,2-shift occurs from the more migratory C1CCCCC1 group to the adjacent oxygen, driven by stabilization of the developing carbocation and relief of positive charge on the leaving group."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(CC)(=O)OC1CCCCC1","rationale": "Deprotonation restores neutrality, yielding the ester product; the acidic medium facilitates proton transfers to complete the catalytic cycle."}],"description": "Under acidic conditions, the carbonyl is activated toward nucleophilic attack by protonation, allowing the peracid to add. A 1,2-shift then occurs, driven by stabilization of the developing positive charge, yielding the ester after deprotonation."}
